US05834499
In 6 ml of ethyl acetate, 155 mg of 2-[2-(tert-butoxycarbonylamino)cyclopentyl]-8H-indeno[1,2-d]thiazole was dissolved. Then, 15 ml of a 4N solution of hydrogen chloride in ethyl acetate was added, followed by stirring at room temperature for one hour. The crystals precipitated were collected by filtration, and the crystals were recrystallized from ethyl acetate-methanol, whereby 39 mg of 2-(2-aminocyclopentyl)-8H-indeno[1,2-d]thiazole dihydrochloride was obtained.

reactant | 2-[2-(tert-butoxycarbonylamino)cyclopentyl]-8H-indeno[1,2-d]thiazole | 155 mg | C(C)(C)(C)OC(=O)NC1C(CCC1)C=1SC2=C(N1)C=1C=CC=CC1C2 | C20H24N2O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-aminocyclopentyl)-8H-indeno[1,2-d]thiazole dihydrochloride | 39 mg | Cl.Cl.NC1C(CCC1)C=1SC2=C(N1)C=1C=CC=CC1C2 | InChI=1S/C15H16N2S.2ClH/c16-12-7-3-6-11(12)15-17-14-10-5-2-1-4-9(10)8-13(14)18-15;;/h1-2,4-5,11-12H,3,6-8,16H2;2*1H
